US07919628B2
To a solution of 0.95 g chloro acetic acid in 20 ml of dry THF 1.78 g N,N′-carbonyl-diimidazole were added. After 0.5 h at room temperature and under argon atmosphere 1.69 g 2-amino-2-methyl-propionic acid methyl ester and 1.29 g N,N-diisopropyl-ethyl-amine were added and it was stirred for 3 h. Then the solvent was evaporated, the residue taken up in ethyl acetate and washed with 2 M hydrochloric acid, water and sat. aqueous sodium hydrogen carbonate solution. The combined organic fractions were dried over sodium sulphate, filtrated and concentrated. The resulting residue was crystallized from diethylether to yield 2-(2-chloro-acetylamino)-2-methyl-propionic acid methyl ester.

reactant | chloro acetic acid | 0.95 g | ClCC(=O)O | C2H3ClO2
reactant | 2-amino-2-methyl-propionic acid methyl ester | 1.69 g | COC(C(C)(C)N)=O | C5H11NO2
reactant | N,N-diisopropyl-ethyl-amine | 1.29 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 20 ml, 1.78 g | C1CCOC1 | C4H8O
product | 2-(2-chloro-acetylamino)-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(CCl)=O)=O | C7H12ClNO3
